US07423030B2
34.1. 2-(2,4-dimethoxybenzoyl)-5-methoxybenzoic acid
This compound is synthesized according to the method described in 3.2. by reacting 2-bromo-5-methoxybenzoic acid pretreated with n-butyllithium with 2,4-dimethoxy-N-methoxy-N-methylbenzamide. It is used in crude form in the following reaction.

reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2,4-dimethoxy-N-methoxy-N-methylbenzamide | COC1=C(C(=O)N(C)OC)C=CC(=C1)OC | C11H15NO4
product | 2-(2,4-dimethoxybenzoyl)-5-methoxybenzoic acid | COC1=C(C(=O)C2=C(C(=O)O)C=C(C=C2)OC)C=CC(=C1)OC | C17H16O6
